US08350029B2
Preparation of 5-nitro isovanillin (Formula II)
Isovanillin (500 gm) and acetic acid (1750 ml) were cooled to −5 to 0° C. To this solution, nitric acid (750 ml) was charged slowly at −5 to 0° C. with stirring. The temperature of the reaction mass was slowly raised to 25-30° C. and maintained for 12 hours. The reaction mass was quenched into ice water (4 kg), the solids filtered and washed with water (2 lt). The solids were stirred with a 1% sodium bicarbonate solution (1 lt), filtered and dried at 45-50° C. The solid was dissolved in 6 volumes of ethyl acetate, ethyl acetate was distilled off up to half the volume and 3 volumes of n-Hexane were charged slowly at 45-50° C. The reaction mass was cooled slowly to 0-5° C., maintained for 1 hour, the solids filtered, washed with 0.5 volumes of 1:1 mixture of ethyl acetate:n-Hexane and dried at 45-50° C. to yield the title compound (423 gm, 65% yield).

reactant | Isovanillin | 500 gm | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | nitric acid | 750 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 1750 ml | C(C)(=O)O | C2H4O2
product | 5-nitro isovanillin | 423 gm, 65% yield | [N+](=O)([O-])C=1C(=C(C=C(C=O)C1)O)OC | C8H7NO5
